Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
food stuck in chest
 
Major Surgical or Invasive Procedure:
EGD with disimpaction of food bolus

 
History of Present Illness:
___ year old male with past medical history of eosinophilic 
esophagitis, Schatzki's ring and multiple episodes of food 
impaction presenting with sensation of food being stuck in 
chest.  He was eating a chicken pizza yesterday and at about 7 
___ felt the food stuck in his chest.  He went to bed and woke up 
this morning unable to swallow his secretions and persistent 
sensation of food being stuck.  Presented to ED and underwent 
EGD with removal of impacted food bolus.  Currently reports he 
feels well with just mild irritation of throat.  Denies f/c, 
SOB, cough, N/V, diarrhea, dysuria. He has not been taking his 
medications for months, saying he didn't have any symptoms.  He 
reports he frequently has sensation of food getting stuck but 
usually it passes on its own.
 
Past Medical History:
eosinophilic esophagitis
Schatzki's ring 
multiple episodes of food impaction 
Right foot tumor s/p excision
Back surgery
 
Social History:
___
Family History:
Father died of throat cancer, denies family history of GI issues
 
Physical Exam:
Admission PE:
VS 98.2 67 130/82 16 97% RA
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: Soft, NT, ND +BS
Ext: no c/c/e
Neuro: CN II-XII intact, ___ strength throughout
Skin: warm, dry no rashes

Discharge PE:
VS 97.4 51 120/78 18 97% RA
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: Soft, NT, ND +BS
Ext: no c/c/e
Skin: warm, dry no rashes

 
Pertinent Results:
___ 01:25PM   GLUCOSE-96 UREA N-15 CREAT-1.1 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-28 ANION GAP-14
___ 01:25PM   WBC-7.0 RBC-4.92 HGB-14.8 HCT-42.3 MCV-86 
MCH-30.1 MCHC-35.0 RDW-12.0 RDWSD-37.2
___ 01:25PM   NEUTS-56.9 ___ MONOS-7.3 EOS-9.1* 
BASOS-0.9 IM ___ AbsNeut-3.99 AbsLymp-1.79 AbsMono-0.51 
AbsEos-0.64* AbsBaso-0.06
___ 01:25PM   ___ PTT-30.5 ___

EGD ___
Impression: Severe esophagitis in the distal esophagus 
compatible with esophagitis
Mucosal rings in the esophagus compatible with esosinophilic 
esophagitis
Food in the 30cm - 35 cm (foreign body removal)
Otherwise normal EGD to pylorus 

Recommendations: Admit to Hospital
Clears until tomorrow then ADAT
BID PPI IV in house
BID PPI PO on discharge
Take fluticasone as previously prescribed on discharge
Outpatient allergy consult 

 
Brief Hospital Course:
___ year old male with past medical history of eosinophilic 
esophagitis, Schatzki's ring and multiple episodes of food 
impaction presenting with sensation of food being stuck in 
chest.

#GI: food impaction, eosinophilic esophagiits, Schatzki's ring.  
S/p EGD with removal of food bolus, given length of time food 
was impacted (almost 18 hours), he was at risk for delayed 
perforation and was admitted for observation.  He had no pain, 
fevers or signs of complications.  He was put on IV protonix BID 
while inpatient and transitioned back to oral PPI BID on 
discharge.
-Follow-up with GI as outpatient
-BID PO PPI
-Continue fluticasone
-Regular diet
-Counselled on importance of medication compliance and coming to 
the hospital quickly if this recurs.

#FEN/PPX: regular, ambulatory

Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Food impaction
Eosinophilic esophagitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for food impaction, you underwent an endoscopy 
procedure to remove the food
 
Followup Instructions:
___